US08183279B2
8.9 kg of 5-bromo-2,4-dihydroxybenzoic acid are dissolved in 70 l of methanol and heated to 55° C. 800 ml of sulfuric acid (w=95-98%) are subsequently metered in, and the mixture is stirred under gentle reflux for 4 days, during which a further 500 ml of sulfuric acid (w=95-98%) were added daily (3 times). The reaction mixture is stirred into a cooled solution (5° C.) of 9 kg of sodium hydrogencarbonate in 100 l of water. Filtration and drying in vacuo at 50° C. gives 7.87 kg (83%) of methyl 5-bromo-2,4-dihydroxybenzoate (white crystals), MW 247.1.

reactant | 5-bromo-2,4-dihydroxybenzoic acid | 8.9 kg | BrC=1C(=CC(=C(C(=O)O)C1)O)O | C7H5BrO4
reactant | sulfuric acid | 800 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | 9 kg | C(O)([O-])=O.[Na+]
solvent | methanol | 70 l | CO | CH4O
solvent | water | 100 l | O | H2O
product | methyl 5-bromo-2,4-dihydroxybenzoate | 7.87 kg, 83% | BrC=1C(=CC(=C(C(=O)OC)C1)O)O | C8H7BrO4
